US07265121B2
1-(Boc-D-Valinyl)-4-(1-methylpiperidin-4-yl)piperidine
To a solution of Boc-D-Val-OH (33.0 g, 152 mmol) in anhydrous DMF (1.5 L) is added 4-(1-methylpiperidin-4-yl)-piperidine dihydrobromide (52.2 g, 152 mmol) [4-(1-methyl-piperidin-4-yl)piperidine dihydrobromide is also named 1-methyl-4,4′-bispiperidine dihydrobromide; and its preparation is described in WO 00/76971 at pages 163-164.] followed by triethylamine (63.5 mL, 456 mmol), HOBt (20.5 g, 152 mmol) and DCC (31.3 g, 152 mmol) at room temperature. The reaction is allowed to stir at room temperature overnight. The mixture is then poured into aqueous LiCl (1.5 L) and extracted with CH2Cl2 (3×2 L). The organic layers are combined, dried over Na2SO4, filtered and concentrated in vacuo. The residue is dissolved in CHCl3 (1 L), filtered and concentrated in vacuo. The crude material is purified using chromatography over silica gel, eluting with 4% (2 M NH3 in MeOH)/CHCl3 to give 43.3 g (75%) of the title compound as a tan foam.

reactant | Boc-D-Val-OH | 152 mmol, 33.0 g | N([C@H](C(C)C)C(=O)O)C(=O)OC(C)(C)C | C10H19NO4
reactant | 4-(1-methylpiperidin-4-yl)-piperidine dihydrobromide | 152 mmol, 52.2 g | Br.Br.CN1CCC(CC1)C1CCNCC1
reactant | triethylamine | 456 mmol, 63.5 mL | C(C)N(CC)CC | C6H15N
reactant | HOBt | 152 mmol, 20.5 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DCC | 152 mmol, 31.3 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | LiCl | 1.5 L | [Li+].[Cl-]
solvent | DMF | 1.5 L | CN(C)C=O | C3H7NO
product | 1-(Boc-D-Valinyl)-4-(1-methylpiperidin-4-yl)piperidine | 43.3 g, 75% | C(=O)(OC(C)(C)C)N[C@H](C(C)C)C(=O)N1CCC(CC1)C1CCN(CC1)C | C21H39N3O3
